US07618990B2
2-Bromo-4-(4-nitrophenyl)-1,3-thiazole (1.0 g, 3.5 mmol), prepared in the previous step, and 2-amino-2-methyl-propan-1-ol (2.0 mL, 21.0 mmol) were placed in a sealed tube and heated to 175° C. for 18 h. The crude product was pre-adsorbed onto silica gel and purified using a stepwise gradient of 1-5% methanol:methylene chloride to give 2-{[4-(4-nitrophenyl)-1,3-thiazol-2-yl]amino}-2-methylpropan-1-ol (700 mg, 69%), MS (ES) m/z 294[M+H]+.

reactant | 2-Bromo-4-(4-nitrophenyl)-1,3-thiazole | 3.5 mmol, 1.0 g | BrC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H5BrN2O2S
reactant | 2-amino-2-methyl-propan-1-ol | 21.0 mmol, 2.0 mL | NC(CO)(C)C | C4H11NO
product | 2-{[4-(4-nitrophenyl)-1,3-thiazol-2-yl]amino}-2-methylpropan-1-ol | 700 mg, 69% | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C(SC1)NC(CO)(C)C | C13H15N3O3S
